US06420418B1
2-Methyl-2-tetrahydrofuroic Acid
To a solution of N,N-diisopropylamine (15 ml, 106 mmol) in THF (40 ml) at 0° C. was added n-BuLi (99 mmol, 1.6 M/Hex). After stirring the mixture for 30 min. DMPU (12 ml, 99 mmol) and tetrahydro-2-furoic acid (4.2 ml, 44 mmol) were added at 0° C. After 1 hr at 0° C., iodomethane (5.4 ml, 88 mmol) was added and the reaction mixture was allowed to warm to room temperature. After stirring overnight, the reaction mixture was partitioned between ethyl acetate and 1N HCl. The aqueous layer was extracted with ethyl acetate (2×500 ml) and chloroform (500 ml). The extracts were washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by silica gel chromatography with methylene chloride/methanol/acetic acid=97:3:0.5 to afford the desired product as an oil (2.5 g).

reactant | N,N-diisopropylamine | 106 mmol, 15 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 99 mmol, 1.6 M | [Li]CCCC
reactant | DMPU | 99 mmol, 12 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | tetrahydro-2-furoic acid | 44 mmol, 4.2 ml | O1C(CCC1)C(=O)O | C5H8O3
reactant | iodomethane | 88 mmol, 5.4 ml | IC | CH3I
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-Methyl-2-tetrahydrofuroic Acid | 2.5 g | CC1(OCCC1)C(=O)O | C6H10O3
